US07524840B2
(2-amino-5-methoxy-4-phenylphenyl)-(2-chlorophenyl)-methanone (Xff) was prepared by reacting 2-chlorobenzaldehyde with 0.0226 moles of 4-methoxy-3-phenyl aniline in a manner analogous to the Example 1. MH+/Z=338.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-methoxy-3-phenyl aniline | 0.0226 moles | COC1=C(C=C(N)C=C1)C1=CC=CC=C1 | C13H13NO
product | (2-amino-5-methoxy-4-phenylphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)C1=CC=CC=C1)OC)C(=O)C1=C(C=CC=C1)Cl | C20H16ClNO2
